US06479668B1
To a solution of 15.9 g (0.1 mol) of 1-benzyl-3-pyrroline, 12.0 g (0.12 mol) of 98% sulfuric acid, 15.0 g of water, and 60.0 g of acetone in a quartz round flask reactor, 45.6 g (0.20 mol) of (NH4)2S2O8 (ammonium peroxydisulfate produced by Mitsubishi Gas Chemical Industry Co., Ltd.) was added with stirring and allowed to react for 5 days at room temperature with irradiation by 500W Xe lamps (UXL-500D xenon lamp produced by Ushio). After evaporation of acetone under reduced pressure, continuously, 13.2 g (0.12 mol) of benzenethiol (produced by produced by Aldrich Chemical Co., Inc.) was added to the reaction mixture and stirred for 5 hours at 100° C. After completion, the reaction mixture was extracted with toluene and water. After the solvent was evaporated under reduced pressure, 20.2 g of 1-benzyl-4-phenylthio-3-pyrrolidinol (yield 70.9%) was obtained.

reactant | 1-benzyl-3-pyrroline | 0.1 mol, 15.9 g | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
reactant | sulfuric acid | 0.12 mol, 12.0 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 15.0 g | O | H2O
reactant | benzenethiol | 0.12 mol, 13.2 g | C1(=CC=CC=C1)S | C6H6S
solvent | acetone | 60.0 g | CC(=O)C | C3H6O
product | 1-benzyl-4-phenylthio-3-pyrrolidinol | 20.2 g, yield 70.9% | C(C1=CC=CC=C1)N1CC(C(C1)SC1=CC=CC=C1)O | C17H19NOS
